US06900196B2
4-(Boc-aminomethyl)-1-cyclopentylpiperidine
Using Alkylation Method B, 4-(Boc-aminomethyl)piperidine (15 g, 70 mmol) and cyclopentanone (36 g, 450 mmol) afforded 15.3 g (77%) of the title compound.

reactant | 4-(Boc-aminomethyl)piperidine | 70 mmol, 15 g | C(=O)(OC(C)(C)C)C(C1CCNCC1)N | C11H22N2O2
reactant | cyclopentanone | 450 mmol, 36 g | C1(CCCC1)=O | C5H8O
product | 4-(Boc-aminomethyl)-1-cyclopentylpiperidine | 15.3 g, 77% | C(=O)(OC(C)(C)C)C(C1CCN(CC1)C1CCCC1)N | C16H30N2O2
